US08633175B2
Step 1: 1,1-dimethylethyl {2-[(3′-cyano-4-biphenylyl)oxy]ethyl}(4,4-dimethylcyclohexyl)carbamate
A mixture of m-cyanophenyl boronic acid (0.086 g; 0.59 mmol), 1,1-dimethylethyl {2-[(4-bromophenyl)oxy]ethyl}(4,4-dimethylcyclohexyl)carbamate (0.250 g; 0.59 mmol; Example V-8), PdCl2(dppf).CH2Cl2, 2M Na2CO3 (4 mL) and DME (4 mL) was sparged 5 min with N2 and then heated to 80° C. for 5 h. Upon cooling, the mixture was diluted with EtOAc, washed with water and the washing was back-extracted with EtOAc (×2). Combined organics were washed (water, brine), dried over Na2SO4, adsorbed onto a minimal amount of silica gel and purified by flash chromatography (EtOAc/hexanes), affording the title compound as a colorless gum. 1H NMR (400 MHz, CDCl3) δ 0.92 (s, 3H), 0.94 (s, 3H, partially overlapping 0.92), 1.21-1.87 (m, 17H), 3.45-3.63 (m, 2H), 3.88 (br. s, 1H), 4.10 (br. s, 2H), 7.00 (m, 2H), 7.49 (m, 2H), 7.52 (d, J=7.8 Hz, 1H; partially overlapping 7.49), 7.58 (d, J=7.6 Hz, 1H), 7.77 (partially resolved ddd, Jortho=7.8 Hz, 1H), 7.82 (unresolved dd, 1H).

reactant | m-cyanophenyl boronic acid | 0.59 mmol, 0.086 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | 1,1-dimethylethyl {2-[(4-bromophenyl)oxy]ethyl}(4,4-dimethylcyclohexyl)carbamate | 0.59 mmol, 0.250 g | BrC1=CC=C(C=C1)OCCN(C(OC(C)(C)C)=O)C1CCC(CC1)(C)C | C21H32BrNO3
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1,1-dimethylethyl {2-[(3′-cyano-4-biphenylyl)oxy]ethyl}(4,4-dimethylcyclohexyl)carbamate | C(#N)C=1C=C(C=CC1)C1=CC=C(C=C1)OCCN(C(OC(C)(C)C)=O)C1CCC(CC1)(C)C | C28H36N2O3
